US07902252B2
2.34. Synthesis of methyl 4-(3,4-difluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized from methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate in two steps. First, methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.60 g, 3.35 mmol) was reacted with 3,4-difluorobenzylmagnesium bromide (0.25 M in diethyl ether, 33.5 mL, 8.4 mmol) according to General Procedure 3. The resulting olefin was then converted to the title compound by hydrogenation according to General Procedure 6 (5% Pd on carbon). The crude product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-40% EtOAc/heptane to afford the title compound: 0.100 g. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.98-2.18 (m, 1 H) 2.48-2.64 (m, 1H) 2.64-2.83 (m, 4H) 3.27 (quin, J=7.00 Hz, 1H) 3.81 (s, 3H) 6.29-6.41 (m, 1H) 6.89 (ddd, J=6.19, 4.14, 2.03 Hz, 1H) 6.94-7.14 (m, 2H) 9.01 (br. s, 1H).

reactant | methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | O=C1CCC=2NC(=CC21)C(=O)OC | C9H9NO3
reactant | methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 3.35 mmol, 0.60 g | O=C1CCC=2NC(=CC21)C(=O)OC | C9H9NO3
reactant | 3,4-difluorobenzylmagnesium bromide | 8.4 mmol, 0.25 M, 33.5 mL | FC=1C=C(C[Mg]Br)C=CC1F
catalyst | Pd on carbon | [Pd] | Pd
product | methyl 4-(3,4-difluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | FC=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1F | C16H15F2NO2
